US05491167
(4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-Hexahydro-6-hydroxy-8-[(2RS)-2-phenoxypropionyloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-hydroxy-2H-pyran-2-one (Compound No. 1-1)
A procedure similar to that described in Example 2, above, was followed, but using 800 mg of (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-[(2RS)-2-phenoxypropionyloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Example127, above] and 24.7 ml of a 1.0 molar solution of tetrabutylammonium fluoride in tetrahydrofuran, to give 324 mg of the title compound as a white powder.

reactant | (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-[(2RS)-2-phenoxypropionyloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 800 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(C)OC1=CC=CC=C1)=O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C39H62O7Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4R,6R)-6-([1S,2S,6S,8S,8aR]-2-{1,2,6,7,8,8a-Hexahydro-6-hydroxy-8-[(2RS)-2-phenoxypropionyloxy]-2-methyl-1-naphthyl}ethyl)tetrahydro-4-hydroxy-2H-pyran-2-one | 324 mg | O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(C)OC1=CC=CC=C1)=O)CC[C@@H]1C[C@H](CC(O1)=O)O)C | C27H34O7
